US05403846
Step D: Preparation of 8-(6-Cyano-1,2,3,4-tetrahydroisoquinolin-2-yl)- 1,4-dioxaspiro[4,5]decane
A solution of cyclohexane-1,4-dione monoethylene ketal(5.3 g, 33.9 mmole) and 6-cyano-1,2,3,4-tetrahydro-isoquinoline (5.3 g, 28.5 mmole) was treated with sodium cyanoborohydride (2.13 g, 33.8 mmole)at room temperature and stirred at ambient temperature for 18 hr. The reaction was concentrated to 1/4 volume at reduced pressure and poured into sat. NaHCO3 (500 ml ) and extracted with EtOAc (3×500 ml ). The combined organic layers were dried over anhydrous MgSO4 and evaporated under reduced pressure. The resulting foam was chromatographed on silica gel, eluting with 50% ethyl acetate/hexane to give 7.01 of product as a white solid which was recrystallized from ethanol. MP=127° C.

reactant | cyclohexane-1,4-dione monoethylene ketal | 33.9 mmole, 5.3 g | C1COC2(CCC(CC2)=O)O1 | C8H12O3
reactant | 6-cyano-1,2,3,4-tetrahydro-isoquinoline | 28.5 mmole, 5.3 g | C(#N)C=1C=C2CCNCC2=CC1 | C10H10N2
reactant | sodium cyanoborohydride | 33.8 mmole, 2.13 g | C(#N)[BH3-].[Na+]
product | 8-(6-Cyano-1,2,3,4-tetrahydroisoquinolin-2-yl)- 1,4-dioxaspiro[4,5]decane | C(#N)C=1C=C2CCN(CC2=CC1)C1CCC2(OCCO2)CC1 | C18H22N2O2
